US06433211B1
A mixture containing ethyl p-cyanobenzoate (87.5 g, 0.5 mol), ethanol (192.5 g), and water (449.2 g) was placed in a 1 l-flask. The mixture was heated to 82° C., and sodium hydrogencarbonate was added thereto so as to adjust the pH of the mixture at 9.0-9.3. Seven hours after the reaction started, liquid chromatographic analysis revealed that the reaction mixture contained 67.6 g of p-cyanobenzoic acid (yield 92%).

reactant | ethyl p-cyanobenzoate | 0.5 mol, 87.5 g | C(#N)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO2
reactant | ethanol | 192.5 g | C(C)O | C2H6O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 449.2 g | O | H2O
product | p-cyanobenzoic acid | 67.6 g, yield 92% | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
